### PR TITLE
ainvs: remove unused lemma

### PR DESCRIPTION
**Pull request by MitchellBuckley**
Signed-off-by: Mitchell Buckley <mitchell.alan.buckley@gmail.com>

move two small lemmas, generalise and rename a dmo-ct_in_state lemma, remove some redundant crunch lemmas

Signed-off-by: Mitchell Buckley <mitchell.alan.buckley@gmail.com>

move a few lemmas up in to lemma buckets

Signed-off-by: Mitchell Buckley <mitchell.alan.buckley@gmail.com>

big find-and-replace

Signed-off-by: Mitchell Buckley <Mitchell.Buckley@data61.csiro.au>

### CODE REVIEW

File: proof/invariant-abstract/CSpaceInv_AI.thy [hunk 1]
```diff
@@ -627,7 +627,7 @@ lemma set_cap_live[wp]:
      set_cap cap p \<lbrace>\<lambda>rv s. P (obj_at live p' s)\<rbrace>"
   apply (simp add: set_cap_def split_def set_object_def)
   apply (wp get_object_wp | wpc)+
-  apply (auto simp: obj_at_def live_def) (* FIXME: ARMHYP *)
+  apply (fastforce simp: obj_at_def live_def) (* FIXME: ARMHYP *)
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/CSpaceInv_AI.thy]: remove the FIXME.

File: proof/invariant-abstract/ARM_HYP/ArchInvariants_AI.thy [hunk 2]
```diff
@@ -2573,6 +2570,9 @@ proof -
   thus ?thesis by (rule rtrancl_mono)
 qed
 
+lemmas pte_ref_pages_simps[simp] = pte_ref_pages_def[split_simps pte.split]
+lemmas pde_ref_pages_simps[simp] = pde_ref_pages_def[split_simps pde.split]
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/ARM_HYP/ArchInvariants_AI.thy:2574]: Note: this is a useful pattern

File: proof/invariant-abstract/ARM/ArchVSpace_AI.thy [hunk 3]
```diff
@@ -1825,7 +1825,7 @@ lemma set_pd_vspace_objs_map:
   apply (simp add: a_type_def)
   done
 
-(* FIXME: move *)
+(* FIXME: move -- mitch: move where?*)
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/ARM/ArchVSpace_AI.thy]: Undo this

File: proof/invariant-abstract/ARM/ArchAcc_AI.thy [hunk 4]
```diff
@@ -2703,62 +2671,32 @@ lemma store_pde_vspace_objs_unmap:
   apply (simp add: graph_of_def split: if_split_asm)
   done
 
-
 (* FIXME: remove magic numbers in other lemmas, use in pde_at_aligned_vptr et al *)
 lemma lookup_pd_slot_add_eq:
-  "\<lbrakk> is_aligned pd pd_bits; is_aligned vptr 24; x \<in> set [0 , 4 .e. 0x3C] \<rbrakk>
+  "\<lbrakk> is_aligned pd pd_bits; is_aligned vptr 24; x \<in> set [0 , 4 .e. 60] \<rbrakk>
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/ARM/ArchAcc_AI.thy]: change 60 back

File: proof/invariant-abstract/ARM/ArchAcc_AI.thy [hunk 5]
```diff
@@ -1593,18 +1584,9 @@ lemma set_pt_invs:
...
-  by (simp add: invs_def valid_state_def valid_arch_state_def)
-
-
-(* FIXME: move to Invariants_A *)
-lemma valid_asid_table_ran:
-  "valid_asid_table asid_tbl s \<Longrightarrow> \<forall>p\<in>ran asid_tbl. asid_pool_at p s"
-  by (simp add: invs_def valid_state_def valid_arch_state_def
-                valid_asid_table_def)
-
+(* FIXME: move these. Can these be moved higher? *)
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/ARM/ArchAcc_AI.thy]: Update this a bit

File: lib/LemmaBucket.thy [hunk 6]
```diff
@@ -482,4 +486,59 @@ lemma sorted_list_of_set_already_sorted:
   "\<lbrakk> distinct xs; sorted xs \<rbrakk> \<Longrightarrow> sorted_list_of_set (set xs) = xs"
   by (simp add: sorted_list_of_set_sort_remdups distinct_remdups_id sorted_sort_id)
 
+lemma inj_on_domD: "\<lbrakk>inj_on f (dom f); f x = Some z; f y = Some z\<rbrakk> \<Longrightarrow> x = y"
```
Comment (MitchellBuckley) [inline lib/LemmaBucket.thy:489]: Move these higher?
